US05344843
As in Example 227, (E)-3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indol-2-yl]-2-propenoic acid methyl ester (4.43 g) in dry dichloromethane (60 mL) was treated with diisobutylaluminum hydride in toluene (1.5M; 30 mL) at -65° C. for 1 hour, then was worked up as previously described to give 4.15 g of (E)-3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indol-2-yl]-2-propen-1-ol as a yellow oil. A portion (0.2 g) was purified by chromatography over silica gel (diethyl ether-hexane; 1:19) to furnish 0.175 g of the analytically pure alcohol as an oil.

reactant | (E)-3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indol-2-yl]-2-propenoic acid methyl ester | 4.43 g | COC(\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O | C21H20FNO2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | toluene | 1.5M, 30 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indol-2-yl]-2-propen-1-ol | 4.15 g | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)/C=C/CO | C20H20FNO
